US06667309B2
3-Benzyl-3-trichloroacetamidocyclopentene
A solution of compound 3-benzyl-2-cyclopentenol (3.0 g, 17.2 mmol) in ether (50 mL) was added to a suspension of hexane washed 60% NaH (468 mg, 11.7 mmol) in ether (50 mL) at 0° C. under N2 and stirred for 1 h. Trichloroacetonitrile (3.0 g, 20.8 mmol) was slowly added and the resulting mixture was allowed to warm to ambient temperature and stirred overnight. The solvent was removed in vacuo, hexane (25 mL) was added and the mixture was cooled to 0° C. Methanol (1 mL) was added and the resulting solid was filtered through Celite. The organic solvent was removed in vacuo to give a crude intermediate (3.2 g). This intermediate was dissolved in xylene (0.1 L) and heated to reflux for 3 h under N2. The solvent was removed in vacuo, and the residue was purified by column on silica gel (100 g, EtOAc/hexane (1:9), to give the title compound (1.8 g, 33%) as a white crystal: mp 127-128° C.;

reactant | 3-benzyl-2-cyclopentenol | 17.2 mmol, 3.0 g | C(C1=CC=CC=C1)C1=CC(CC1)O | C12H14O
reactant | hexane | CCCCCC | C6H14
reactant | NaH | 11.7 mmol, 468 mg | [H-].[Na+]
reactant | Trichloroacetonitrile | 20.8 mmol, 3.0 g | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | ether | 50 mL | CCOCC | C4H10O
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | xylene | 0.1 L | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Benzyl-3-trichloroacetamidocyclopentene | 1.8 g, 33% | C(C1=CC=CC=C1)C1(C=CCC1)NC(C(Cl)(Cl)Cl)=O | C14H14Cl3NO
